US08633173B2
To {8-[5-chloro-(2,2-difluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-(2,3,4,5-tetrahydro-1H-3-benzazepin-7yl)-amine (0.054 g, 0.110 mmol) in dichloromethane (4 mL) under an atmosphere of nitrogen was added triethylamine (0.0349 g, 0.345 mmol), N,N-dimethylcarbamoyl chloride (0.0159 mL, 0.172 mmol), followed by 4-dimethylaminopyridine (0.0014 g, 0.012 mmol) and was stirred at r.t. for 3 h and concentrated. The reaction was partitioned between dichloromethane/water, washed with brine, dried over sodium sulfate, and concentrated. The product was purified using Prep TLC plates (5% methanol in dichloromethane) and concentrated to give 7-{8-[5-chloro-2-(2,2-difluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino}-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid dimethylamide (0.030 g, 48%). MP=98-99° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.58 (s, 1H), 8.78 (d, 1H), 7.80 (s, 1H), 7.65 (d, 1H), 7.48 (m, 3H), 7.30 (d, 1H), 7.05 (m, 2H), 6.25 (br m, 1H), 4.38 (m, 2H), 3.28 (m, 4H), 2.84 (m, 4H), 2.74 (s, 6H). MS=541 (MH)+.

reactant | {8-[5-chloro-(2,2-difluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-(2,3,4,5-tetrahydro-1H-3-benzazepin-7yl)-amine | 0.110 mmol, 0.054 g | ClC=1C=CC(=C(C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC1=C(CCNCC1)C=C2)OCC(F)F | C24H22ClF2N5O
reactant | triethylamine | 0.345 mmol, 0.0349 g | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylcarbamoyl chloride | 0.172 mmol, 0.0159 mL | CN(C(=O)Cl)C | C3H6ClNO
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.012 mmol, 0.0014 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 7-{8-[5-chloro-2-(2,2-difluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino}-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid dimethylamide | 0.030 g, 48% | CN(C(=O)N1CCC2=C(CC1)C=CC(=C2)NC2=NN1C(C(=CC=C1)C1=C(C=CC(=C1)Cl)OCC(F)F)=N2)C | C27H27ClF2N6O2
